US07459567B2
Into dioxane (3 mL) was dissolved methyl (2,4-dibromothien-3-yl)acetate (0.355 g, 1.13 mmol) and 4-propoxyphenylboronic acid (0.214 g, 1.19 mmol). K2CO3 (0.195 g, 1.41 mmol) was dissolved in H2O (0.4 mL) and added to the dioxane. The solution was degassed by bubbling argon through the mixture for five minutes. {1,1′-Bis(diphenylphosphino)-ferrocene}dichloropalladium(II) complex with dichloromethane (1:1) (0.027 g, 0.033 mmol) was added and the mixture heated under argon to 50° C. for 4 hours (followed by TLC 15:1 Hexane:EtOAc). The solvents were removed and the mixture partitioned between EtOAc and H2O. The EtOAc layer was dried (MgSO4) and absorbed onto silica gel. The product was purified by flash chromatography (25:1 hexane:EtOAc) to yield methyl [4-bromo-2-(4-propoxyphenyl)thien-3-yl]acetate (0.240 g) as a clear oil. 1H NMR (500 MHz, DMSO-d6) δ: 0.99 (t, 3H, J=7.32 Hz), 1.75 (m, 2H), 3.65 (s, 5H), 3.98 (t, 2H, J=6.6 Hz), 7.05 (d, 2H, J=8.2 Hz), 7.33 (d, 2H, J=8.2 Hz), 7.72 (s, 1H). MS (ES) m/z 369.0 ([M+H]+). MS (ES) m/z 386.0 ([M+NH4]+).

reactant | methyl (2,4-dibromothien-3-yl)acetate | 1.13 mmol, 0.355 g | BrC=1SC=C(C1CC(=O)OC)Br | C7H6Br2O2S
reactant | 4-propoxyphenylboronic acid | 1.19 mmol, 0.214 g | C(CC)OC1=CC=C(C=C1)B(O)O | C9H13BO3
reactant | K2CO3 | 1.41 mmol, 0.195 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dichloromethane | 0.033 mmol, 0.027 g | ClCCl | CH2Cl2
solvent | H2O | 0.4 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Hexane | CCCCCC | C6H14
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | methyl [4-bromo-2-(4-propoxyphenyl)thien-3-yl]acetate | 0.240 g | BrC=1C(=C(SC1)C1=CC=C(C=C1)OCCC)CC(=O)OC | C16H17BrO3S
